US06642226B2
To a mixture of 1-benzyl-3-(4-chloro-phenyl)-piperidin-4-one (1.0 g, 3.34 mmol) and morpholine (1.16 mL, 13.3 mmol) was added tetraisopropyl-orthotitanate (3.95 mL, 13.3 mmol) at room temperature. After stirring at room temperature overnight the reaction mixture was diluted with ethanol (30.0 mL) and sodium cyanoborohydride (930 mg, 13.3 mmol) was added. The reaction mixture was stirred at room temperature for 24 h and was diluted with water (2.0 mL). The inorganic precipitate was filtered off and washed with ethanol. The filtrate was evaporated and purified by flash chromatography on silica gel with hexane/ethyl acetate/triethylamine 40:10:1 to give rac-cis-4-[1-benzyl-3-(4-chloro-phenyl)-piperidin-4-yl]-morpholine (650 mg, 52%) as a yellow solid, MS: m/e=371.3 (M+H+).

reactant | 1-benzyl-3-(4-chloro-phenyl)-piperidin-4-one | 3.34 mmol, 1.0 g | C(C1=CC=CC=C1)N1CC(C(CC1)=O)C1=CC=C(C=C1)Cl | C18H18ClNO
reactant | morpholine | 13.3 mmol, 1.16 mL | N1CCOCC1 | C4H9NO
reactant | sodium cyanoborohydride | 13.3 mmol, 930 mg | C(#N)[BH3-].[Na+]
solvent | ethanol | 30.0 mL | C(C)O | C2H6O
solvent | water | 2.0 mL | O | H2O
product | rac-cis-4-[1-benzyl-3-(4-chloro-phenyl)-piperidin-4-yl]-morpholine | 650 mg, 52% | C(C1=CC=CC=C1)N1C[C@H]([C@H](CC1)N1CCOCC1)C1=CC=C(C=C1)Cl | C22H27ClN2O
